US09278922B2
(S)-2-(methoxycarbonylamino)pent-4-enoic acid
A mixture of (S)-2-aminopent-4-enoic acid (1.0 g, 8.69 mmol) and NaHCO3 (2.26 mg, 26.9 mmol) in H2O (40 mL) was cooled to 0° C. A mixture of methyl chloroformate (740 μL, 9.55 mmol) dissolved in Et2O (4 mL) was slowly added to the aqueous mixture and stirred for 20 hours coming to ambient temperature. Mixture was adjusted to pH 3.0 with HCl (conc). The mixture was extracted with EtOAc and then dried (MgSO4), filtered and concentrated to afford 1.25 g (83%) of the title compound. MS (ESI) m/z 174 (M+H)+.

reactant | (S)-2-aminopent-4-enoic acid | 8.69 mmol, 1.0 g | N[C@H](C(=O)O)CC=C | C5H9NO2
reactant | NaHCO3 | 26.9 mmol, 2.26 mg | C(=O)(O)[O-].[Na+]
reactant | methyl chloroformate | 9.55 mmol, 740 μL | ClC(=O)OC | C2H3ClO2
reactant | HCl | Cl | ClH
solvent | H2O | 40 mL | O | H2O
solvent | Et2O | 4 mL | CCOCC | C4H10O
product | (S)-2-(methoxycarbonylamino)pent-4-enoic acid | 1.25 g, 83% | COC(=O)N[C@H](C(=O)O)CC=C | C7H11NO4
